US09062059B2
tert-Butyl (5-methyl-1,3,4-thiadiazol-2-yl)methylcarbamate (8-4)
A solution of (5-methyl-1,3,4-thiadiazol-2-yl)methanamine hydrochloride (500 mg, 3.0 mmol), di-tert-butyl dicarbonate (794 mg, 3.64 mmol) and triethylamine (460 mg, 4.55 mmol) in CH2Cl2 (15.0 mL) stirred for overnight at room temperature. The mixture was diluted with EtOAc (50 mL), washed with sat. NaHCO3 aq (50 mL) and brine (50 mL), dried over MgSO4, filtered, and concentrated in vacuo to yield the title product (560 mg, 81%). LRMS (ES) calculated M+H for C9H15N3O2S: 230.09. Found: 230.2.

reactant | (5-methyl-1,3,4-thiadiazol-2-yl)methanamine hydrochloride | 3.0 mmol, 500 mg | Cl.CC1=NN=C(S1)CN
reactant | di-tert-butyl dicarbonate | 3.64 mmol, 794 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.55 mmol, 460 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl (5-methyl-1,3,4-thiadiazol-2-yl)methylcarbamate | 560 mg, 81% | CC1=NN=C(S1)CNC(OC(C)(C)C)=O | C9H15N3O2S
